US08466114B2
To a stirred solution of 4-methyl-4H-benzo[1,4]oxazin-3-one (2.18 g, 13.37 mmol) in THF (5 mL) was added borane-tetrahydrofuran complex (4.02 g, 46.8 mmol) at room temperature. After stirring the solution for 2 h, the reaction mixture was refluxed for 4 h. After complete conversion, reaction mixture was quenched by adding MeOH (10 mL) and evaporated the solvents. The residue obtained was extracted with ethyl acetate (30×2 mL) and the organic layer was washed with water (20 mL), brine (20 mL) and evaporation of solvent gave 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazine 2.0 g.

reactant | 4-methyl-4H-benzo[1,4]oxazin-3-one | 13.37 mmol, 2.18 g | CN1C(COC2=C1C=CC=C2)=O | C9H9NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | 2.0 g | CN1CCOC2=C1C=CC=C2 | C9H11NO
